US04550166
3-Methyl-7-(2-pyridinyl)-1,2,4-triazolo[4,3-a]pyridine
A mixture of 2.0 g of 2'-hydrazino-2,4'-bipyridine and 50 ml of triethyl orthoacetate was heated on a steam bath for 18 hours, then chilled, filtered and the crystals washed with hexane. These crystals were recrystallized from methylene chloride, giving 1.8 g of the desired product as white crystals, mp 239°-241° C.

reactant | 2'-hydrazino-2,4'-bipyridine | 2.0 g | N(N)C1=NC=CC(=C1)C1=NC=CC=C1 | C10H10N4
reactant | triethyl orthoacetate | 50 ml | C(C)(OCC)(OCC)OCC | C8H18O3
product | 3-Methyl-7-(2-pyridinyl)-1,2,4-triazolo[4,3-a]pyridine | 1.8 g | CC1=NN=C2N1C=CC(=C2)C2=NC=CC=C2 | C12H10N4
